US06387911B1
2-Cyano-5-methoxybenzyl alcohol
To a solution of ethyl 2-cyano-5-methoxybenzoate (5 g, 24 mmol) in THF (100 mL) at room temperature was added a solution of LiBH4 in THF (2M, 12 mL, 24 mmol). After 19 h, there was about 60% conversion of starting material. An additional quantity of LiBH4 in THF (2M, 12 mL, 24 mmol) was added and stirring continued for an additional 15 h. The solvent was removed under reduced pressure then water was carefully added to the residue. Excess hydride was destroyed by careful proportionwise addition of a saturated aqueous solution of NH4Cl. Once complete, the resulting mixture was extracted with ether and then with ethyl acetate. The combined extracts were dried over Na2SO4 and the solvents then removed in vacuo. The residue was purified by column chromatography eluting with 2:1:2 hexane/chloroform/ethyl acetate. The title compound was isolated as a white solid: 1H NMR (CDCl3) δ7.58 (d, J=8.5 Hz, 1H), 7.15 (d, J=2.7 Hz, 1H), 6.86 (dd, J=2.7, 8.5 Hz, 1H), 4.89 (d, J=6.0 Hz, 2H), 3.88 (s, 1H), 2.01 (t, J=6.0 Hz, 1H).

reactant | ethyl 2-cyano-5-methoxybenzoate | 24 mmol, 5 g | C(#N)C1=C(C(=O)OCC)C=C(C=C1)OC | C11H11NO3
reactant | LiBH4 | [Li+].[BH4-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mmol, 2M, 12 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mmol, 2M, 12 mL | C1CCOC1 | C4H8O
product | 2-Cyano-5-methoxybenzyl alcohol | C(#N)C1=C(CO)C=C(C=C1)OC | C9H9NO2
